Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:5]#[O+:6].[C:2](=[O:3])=[C:4]([H:9])[H:10].[N:1]([H:7])([H:8])[H:11]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],17.146945991809105
[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:5]#[N+:6][O-:4])([H:7])([H:8])[H:9],80.88474549895571
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10],91.09565572873491
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:5]([C:6]([H:18])([H:19])[H:20])[C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:17],88.15719887362543
[C:1]([C:2]#[C:3][N+:5]#[C-:4])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8],36.32245153276009
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N+:3]#[C-:4])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5]([C:6]([H:13])([H:14])[H:15])[H:12],66.2908451125649
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3](=[O:4])[N:5]([C:6]([N:7]([H:11])[H:14])([H:10])[H:13])[H:12])([H:8])[H:9],64.8309591605598
[N:1]([C+:2]([C:3](=[N-:4])[H:9])[C:5]#[N:6])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],16.742487519011902
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1](=[C:3]([C:2]([H:9])([H:10])[H:13])[C:4]([C:5](=[O:6])[H:14])([H:11])[H:12])([H:7])[H:8],66.62326179694321
[C:1]1([H:7])([H:9])[N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]1=[N:6][H:8]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],80.6113053845595
[C:1](/[C:2]([O:3][C:6](=[O:7])[H:13])=[C:4](/[O:5][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],41.43150507441504
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[H:9][H:12].[O:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],36.0365567386865
[C:1]([O:2][C:6](=[O:7])[H:17])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],52.697412324748484
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:5]=[O:6])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:10])[H:11],60.438033991626604
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5]1=[C:6]([H:14])[C:4]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.6482104359168
[C:1]([N:2]=[C:3]=[N:4][H:10])([H:7])([H:8])[H:9].[N:5]#[N:6]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9],71.6643772764615
[C:1]([O:2][C:3]=[O:4])([H:6])([H:7])[H:8].[N:5]([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8],14.558504276044417
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[N:3](=[C:4]=[N:5][H:14])[C:6]#[N:7],80.94404732526641
[O:1]([C:2](=[C:3]([O-:4])[C:5](=[C+:6][H:10])[H:9])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],6.583716047470304
[C:1]([H:8])([H:9])([H:10])[H:16].[C:2]1([H:11])=[C:5]([C:6]#[N:7])[C@@:3]1([C:4]([H:13])([H:14])[H:15])[H:12]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],53.95616565222491
[N:1](=[C:2]=[C:6]=[N:7][H:9])[H:8].[O:3]=[C:4]=[O:5]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],34.47423374299001
[C:1]([C:2]([C:3]([O:4][H:13])([H:9])[H:12])([H:10])[H:11])([C:5](=[O:6])[H:14])([H:7])[H:8]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.21144022145532
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]1([H:10])=[C:4]([C:5](=[O:6])[H:14])[C:3]1([H:11])[H:12]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],54.96169916349531
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([C+:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])[H:9].[C:6](#[N:7])[H:10],50.4740863503144
[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:9],99.53979330339769
